US06617346B1
{2-[4,5-Bis-(4-chloro-phenyl)-4,5-dihydro-1H-imidazol-2-yl]-phenoxy)-acetic acid ethyl ester (35 mg, 0.075 mmol) was dissolved in 1.5 mL of dioxane, and 0.5 M sodium hydroxide solution (1.5 mL, 0.75 mmol) was added. The reaction mixture was stirred at room temperature for 23 h. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography (Biotage system, 12S-C18 reverse phase) eluting with 0-25% acetonitrile in water to afford sodium {2-[4,5-bis-(4-chloro-phenyl)-4,5-dihydro-1H-imidazol-2-yl]-phenoxy}-acetate (22 mg, 63%). HR-MS (ES, m/z) calculated for C23H19N2O3Cl2 [(M−Na+2H)+] 441.0767, observed 441.0767.

reactant | {2-[4,5-Bis-(4-chloro-phenyl)-4,5-dihydro-1H-imidazol-2-yl]-phenoxy)-acetic acid ethyl ester | 0.075 mmol, 35 mg | C(C)OC(COC1=C(C=CC=C1)C=1NC(C(N1)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C25H22Cl2N2O3
reactant | sodium hydroxide | 0.75 mmol, 0.5 M, 1.5 mL | [OH-].[Na+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | sodium {2-[4,5-bis-(4-chloro-phenyl)-4,5-dihydro-1H-imidazol-2-yl]-phenoxy}-acetate | 22 mg, 63% | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C1=C(OCC(=O)[O-])C=CC=C1.[Na+] | InChI=1S/C23H18Cl2N2O3.Na/c24-16-9-5-14(6-10-16)21-22(15-7-11-17(25)12-8-15)27-23(26-21)18-3-1-2-4-19(18)30-13-20(28)29;/h1-12,21-22H,13H2,(H,26,27)(H,28,29);/q;+1/p-1
